test AMP_IDC

.LIB '.././models/sky130.lib.spice'tt
.INCLUDE ../AMP.cir


V1 VSS 0 dc=0V
V0 VDD_SOURCE 0 dc=1.8V
VMEAS VDD_SOURCE VDD 0

VIN Vinn 0 dc=0.9V
VIP Vinp 0 dc=0.9V

XI1 Vinp Vinn VDD VSS Vout AMP
C1 VOUT 0 2E-12

.CONTROL
save all @m.xi1.*
set units=degrees
run
op
let Idc = i(vmeas)*1e6
echo "IDC: $&Idc uA" > TT_IDC.txt

* region: 0|cutoff, 1|linear, 2|satuation, 3|Subthreshold
********************************************************
** XM1
let vth1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vth]
let vgs1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vgs]
let vds1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vds]
let vdsat1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vdsat]
let id1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[id]
let gm1 = @m.xi1.xm1.msky130_fd_pr__nfet_01v8[gm]
if vgs1 > vth1
    if vds1 > vdsat1
        echo "XM1: Satuation" >> TT_IDC.txt
    else 
        echo "XM1: Linear" >> TT_IDC.txt
    end
else
    if vds1 > 0.1
        echo "XM1: Subthreshold" >> TT_IDC.txt
    else
        echo "XM1: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vth]
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vgs]
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vds]
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[vdsat]
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[id]
*print @m.xi1.xm1.msky130_fd_pr__nfet_01v8[gm]
********************************************************
** XM2
let vth2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vth]
let vgs2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vgs]
let vds2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vds]
let vdsat2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vdsat]
let id2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[id]
let gm2 = @m.xi1.xm2.msky130_fd_pr__nfet_01v8[gm]
if vgs2 > vth2
    if vds2 > vdsat2
        echo "XM2: Satuation" >> TT_IDC.txt
    else 
        echo "XM2: Linear" >> TT_IDC.txt
    end
else
    if vds2 > 0.1
        echo "XM2: Subthreshold" >> TT_IDC.txt
    else
        echo "XM2: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vth]
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vgs]
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vds]
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[vdsat]
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[id]  
*print @m.xi1.xm2.msky130_fd_pr__nfet_01v8[gm]
********************************************************
** XM3
let vth3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vth] 
let vgs3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vgs]
let vds3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vds]
let vdsat3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vdsat] 
let id3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[id]
let gm3 = @m.xi1.xm3.msky130_fd_pr__pfet_01v8[gm]   
if vgs3 > vth3
    if vds3 > vdsat3
        echo "XM3: Satuation" >> TT_IDC.txt
    else 
        echo "XM3: Linear" >> TT_IDC.txt
    end
else
    if vds3 > 0.1
        echo "XM3: Subthreshold" >> TT_IDC.txt
    else
        echo "XM3: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vth] 
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vgs]
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vds]
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[vdsat]   
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[id]  
*print @m.xi1.xm3.msky130_fd_pr__pfet_01v8[gm]  
********************************************************
** XM4
let vth4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vth]
let vgs4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vgs]
let vds4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vds]
let vdsat4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vdsat] 
let id4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[id]
let gm4 = @m.xi1.xm4.msky130_fd_pr__pfet_01v8[gm]   
if vgs4 > vth4
    if vds4 > vdsat4
        echo "XM4: Satuation" >> TT_IDC.txt
    else 
        echo "XM4: Linear" >> TT_IDC.txt
    end
else
    if vds4 > 0.1
        echo "XM4: Subthreshold" >> TT_IDC.txt
    else
        echo "XM4: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vth] 
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vgs]
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vds]
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[vdsat]   
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[id]  
*print @m.xi1.xm4.msky130_fd_pr__pfet_01v8[gm]  
********************************************************
** XM5
let vth5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vth]
let vgs5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vgs]
let vds5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vds]
let vdsat5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vdsat]
let id5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[id]
let gm5 = @m.xi1.xm5.msky130_fd_pr__nfet_01v8[gm]
if vgs5 > vth5
    if vds5 > vdsat5
        echo "XM5: Satuation" >> TT_IDC.txt
    else 
        echo "XM5: Linear" >> TT_IDC.txt
    end
else
    if vds5 > 0.1
        echo "XM5: Subthreshold" >> TT_IDC.txt
    else
        echo "XM5: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vth]
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vgs]
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vds]
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[vdsat]
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[id]  
*print @m.xi1.xm5.msky130_fd_pr__nfet_01v8[gm]
********************************************************
** XM6
let vth6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vth]
let vgs6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vgs]
let vds6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vds]
let vdsat6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vdsat] 
let id6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[id]
let gm6 = @m.xi1.xm6.msky130_fd_pr__pfet_01v8[gm]   
if vgs6 > vth6
    if vds6 > vdsat6
        echo "XM6: Satuation" >> TT_IDC.txt
    else 
        echo "XM6: Linear" >> TT_IDC.txt
    end
else
    if vds6 > 0.1
        echo "XM6: Subthreshold" >> TT_IDC.txt
    else
        echo "XM6: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vth] 
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vgs]
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vds]
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[vdsat]   
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[id]  
*print @m.xi1.xm6.msky130_fd_pr__pfet_01v8[gm]  
********************************************************
** XM7
let vth7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vth]
let vgs7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vgs]
let vds7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vds]
let vdsat7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vdsat]
let id7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[id]
let gm7 = @m.xi1.xm7.msky130_fd_pr__nfet_01v8[gm]
if vgs7 > vth7
    if vds7 > vdsat7
        echo "XM7: Satuation" >> TT_IDC.txt
    else 
        echo "XM7: Linear" >> TT_IDC.txt
    end
else
    if vds7 > 0.1
        echo "XM7: Subthreshold" >> TT_IDC.txt
    else
        echo "XM7: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vth]
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vgs]
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vds]
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[vdsat]
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[id]  
*print @m.xi1.xm7.msky130_fd_pr__nfet_01v8[gm]
********************************************************
** XM8
let vth8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vth]
let vgs8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vgs]
let vds8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vds]
let vdsat8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vdsat]
let id8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[id]
let gm8 = @m.xi1.xm8.msky130_fd_pr__nfet_01v8[gm]
if vgs8 > vth8
    if vds8 > vdsat8
        echo "XM8: Satuation" >> TT_IDC.txt
    else 
        echo "XM8: Linear" >> TT_IDC.txt
    end
else
    if vds8 > 0.1
        echo "XM8: Subthreshold" >> TT_IDC.txt
    else
        echo "XM8: Cutoff" >> TT_IDC.txt
    end
end
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vth]
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vgs]
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vds]
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[vdsat]
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[id]  
*print @m.xi1.xm8.msky130_fd_pr__nfet_01v8[gm]

let iref = 1e6 * @m.xi1.xm8.msky130_fd_pr__nfet_01v8[id]
echo "******************************" 
echo "Iref: $&iref uA" >> TT_IDC.txt
echo "Vth8: $&vth8 V" >> TT_IDC.txt
echo "******************************" 

quit
.ENDC
.END
